US04699915
A mixture of ethyl N-[3-(2-methylamino-4-thiazolyl)-phenyl]-carbamate hydrobromide (33.5 g) and 10% hydrochloric acid (500 ml) was refluxed for 48 hours. After cooling, the solution was made alkaline with 10% sodium hydroxide and the precipitate was filtered off, washed with water and dried to give 16.5 g of 2-methylamino-4-(3-amino-phenyl)-thiazole; M.p. 118°-121° C. 2-Methylamino-4-(4-amino-phenyl)-thiazole; M.p. 178°-180° C., was prepared in analogous manner, starting from the appropriate carbamate derivative.

reactant | ethyl N-[3-(2-methylamino-4-thiazolyl)-phenyl]-carbamate hydrobromide | 33.5 g | Br.CNC=1SC=C(N1)C=1C=C(C=CC1)NC(OCC)=O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 500 ml | Cl | ClH
product | 2-methylamino-4-(3-amino-phenyl)-thiazole | 16.5 g | CNC=1SC=C(N1)C1=CC(=CC=C1)N | C10H11N3S
